US06221865B1
2-Bromo-4-nitrobenzoic acid
2-Bromo-4-nitrotoluene (5.0 g, 23.14 mmol) was dissolved in pyridine (23 mL) and water (46 mL). The heterogeneous mixture was heated to 60° C. and KMnO4 (18.29 g, 115.7 mmol) was added carefully. The mixture was then heated under reflux overnight. The reaction mixture was filtered and washed with boiling water. The solution was then made acidic and extracted into ethyl acetate, dried over Na2SO4 and the solvent was removed in vacuo. The crude product was dissolved in aqueous NaOH and washed with hexanes. The aqueous phase was made acidic and the product was extracted into ethyl acetate. The ethyl acetate solutions were combined and dried over Na2SO4 and the solvent was removed in vacuo to provide the desired product (3.72 g): m.p. 158-160° C.; 1H NMR (CD3OD) d 7.81 (1H, d, J=8.5 Hz), 8.08 (1H, d, J=8.5 Hz), 8.30 (1H, s); 13C NMR (CD3OD) d 121.96, 122.75, 129.36, 132.24, 139.52, 149.54, 167.75; Anal. Calc. for C7H4BrNO4 *0.1 ethyl acetate, C: 34.88, H: 1.90, N: 5.50; Found, C: 34.68, H: 1.86, N: 5.82.

reactant | 2-Bromo-4-nitrotoluene | 23.14 mmol, 5.0 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | KMnO4 | 115.7 mmol, 18.29 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 46 mL | O | H2O
solvent | pyridine | 23 mL | N1=CC=CC=C1 | C5H5N
product | 2-Bromo-4-nitrobenzoic acid | 3.72 g | BrC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4BrNO4
